US07745641B2
In a similar manner to Step 1 of Example 149, 4-chloro-5-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (65.7 mg, 0.136 mmol) was dissolved in THF (3.5 mL), and the solution was treated with triphenylphosphine (178 mg, 0.680 mmol), 3-(tert-butyldimethylsiloxy)-1-propanol (0.145 mL, 0.680 mmol) and 40% DEAD-toluene solution (0.310 mL, 0.680 mmol), followed by purification by preparative thin-layer chromatography (chloroform/methanol=6/1) to obtain 4-chloro-5-[3-(tert-butyldimethylsiloxy)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (58.2 mg, yield 64%).

reactant | 4-chloro-5-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.136 mmol, 65.7 mg | ClC1=C2CNC(C2=C(C=C1O)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H30ClN3O4
reactant | triphenylphosphine | 0.680 mmol, 178 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(tert-butyldimethylsiloxy)-1-propanol | 0.680 mmol, 0.145 mL | O([Si](C)(C)C(C)(C)C)CCCO | C9H22O2Si
reactant | DEAD toluene | 0.680 mmol, 0.310 mL | CCOC(=O)/N=N/C(=O)OCC.C1(=CC=CC=C1)C
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | 4-chloro-5-[3-(tert-butyldimethylsiloxy)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 58.2 mg, yield 64% | ClC1=C2CNC(C2=C(C=C1OCCCO[Si](C)(C)C(C)(C)C)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C36H50ClN3O5Si
